US03966801
A mixture of 21.6 g. (0.1 mole) of 4-(2'-chlorophenyl)benzaldehyde is heated on a steam bath with 13.2 g. of malonic acid and 95 ml. of pyridine containing 5 drops of piperidine. The mixture is heated for four hours until the liberation of carbon dioxide ceases. The cooled mixture is poured into a mixture of 110 ml. concentrated hydrochloric acid and 500 ml. of ice water. The solid which separates is filtered, washed and 15 ml. portions of cold water and then resuspended in 200 ml. of cold water, filtered, washed with cold water and dried at 40°C. The residue is then recrystallized from ethanol to obtain 4-(2'-chlorophenyl)cinnamic acid.

reactant | 4-(2'-chlorophenyl)benzaldehyde | 0.1 mole | ClC1=C(C=CC=C1)C1=CC=C(C=O)C=C1 | C13H9ClO
reactant | malonic acid | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | carbon dioxide | C(=O)=O | CO2
reactant | hydrochloric acid | Cl | ClH
catalyst | pyridine | 5 drops | N1=CC=CC=C1 | C5H5N
product | 4-(2'-chlorophenyl)cinnamic acid | ClC1=C(C=CC=C1)C1=CC=C(C=CC(=O)O)C=C1 | C15H11ClO2
